US09301951B2
2-methyl-1-((S)-4-(2-(N-methyl-3-(4-(piperidin-1-yl)-2-(4-((S)-1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)benzamido)ethyl)morpholin-3-yl)-1-oxo-5,8,11-trioxa-2-azatetradecan-14-oic acid
A solution of tert-butyl 2-methyl-1-((S)-4-(2-(N-methyl-3-(4-(piperidin-1-yl)-2-(4-((S)-1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)benzamido)ethyl)morpholin-3-yl)-1-oxo-5,8,11-trioxa-2-azatetradecan-14-oate Example 242 (100 mg, 0.10 mmol, 1.00 equiv) in dichloromethane (4 mL), trifluoroacetic acid (2 mL). The resulting solution was stirred for 1 h at room temperature. The resulting mixture was concentrated under vacuum. The crude product (80 mg) was purified by Prep-HPLC with the following conditions (1#-Waters 2767-3): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% TFA and CH3CN (5% CH3CN up to 28% in 1 min, up to 38% in 6 min); Detector, Waters2545 UvDector 254&270 nm. 8.4 mg product was obtained. This resulted in 8.4 mg (7%) of 2-methyl-1-((S)-4-(2-(N-methyl-3-(4-(piperidin-1-yl)-2-(4-((S)-1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)benzamido)ethyl)morpholin-3-yl)-1-oxo-5,8,11-trioxa-2-azatetradecan-14-oic acid as a yellow solid. LC-MS (ES, m/z): 962 [M+H]+ H-NMR (300 MHz, CD3OD, ppm): 8.93 (d, J=5.1 Hz, 1H), 8.65 (d, J=9.3 Hz, 1H), 8.39 (s, 1H), 8.24 (s, 1H), 8.14-8.11 (m, 1H), 8.03-8.02 (m, 1H), 7.86-7.84 (m, 2H), 7.76-7.72 (m, 1H), 7.64-7.61 (m, 1H), 7.28-7.25 (m, 1H), 7.18-7.14 (m, 3H), 5.39 (m, 1H), 4.50-4.45 (m, 2H), 4.30-4.20 (m, 1H), 4.09-4.05 (m, 1H), 3.86-3.43 (m, 25H), 3.21 (s, 1H), 3.10-3.08 (m, 3H), 3.00 (s, 1H), 2.91-2.84 (m, 2H), 2.57-2.51 (m, 2H), 2.04-1.79 (m, 10H).

reactant | tert-butyl 2-methyl-1-((S)-4-(2-(N-methyl-3-(4-(piperidin-1-yl)-2-(4-((S)-1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)benzamido)ethyl)morpholin-3-yl)-1-oxo-5,8,11-trioxa-2-azatetradecan-14-oate | CN(C(=O)[C@H]1N(CCOC1)CCN(C(C1=CC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)=O)=O)C)CCOCCOCCOCCC(=O)OC(C)(C)C | C57H75N7O10
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-methyl-1-((S)-4-(2-(N-methyl-3-(4-(piperidin-1-yl)-2-(4-((S)-1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)benzamido)ethyl)morpholin-3-yl)-1-oxo-5,8,11-trioxa-2-azatetradecan-14-oic acid | 8.4 mg | CN(C(=O)[C@H]1N(CCOC1)CCN(C(C1=CC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)=O)=O)C)CCOCCOCCOCCC(=O)O | C53H67N7O10
